US05461067
B. 2-((N-(t-Butyloxycarbonyl)-N-methylamino)methyl)pyridine
A solution of 19.8 g (95 mmol) of 2-(N-(t-butyloxycarbonyl)aminomethyl)pyridine in anhydrous tetrahydrofuran was cooled under N2 atmosphere to 0° C. and treated with 4.95 g (124 mmol) of sodium hydride (60% dispersion in oil). The solution was stirred for 15 min, treated dropwise with 7.1 ml (114 mmol) of methyl iodide, stirred at ambient temperature for 2 h, and quenched cautiously with water. The resulting mixture was partitioned between ether and water, dried over Na2SO4, and concentrated in vacuo. Chromatography on silica gel provided 14.9 g (70%) of the desired compound as a colorless oil.

reactant | 2-(N-(t-butyloxycarbonyl)aminomethyl)pyridine | 95 mmol, 19.8 g | C(C)(C)(C)OC(=O)NCC1=NC=CC=C1 | C11H16N2O2
reactant | sodium hydride | 124 mmol, 4.95 g | [H-].[Na+]
reactant | methyl iodide | 114 mmol, 7.1 ml | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-((N-(t-Butyloxycarbonyl)-N-methylamino)methyl)pyridine | 14.9 g, 70% | C(C)(C)(C)OC(=O)N(C)CC1=NC=CC=C1 | C12H18N2O2
